US07507740B2
(iii) Production of 6-[3-(aminomethyl)phenyl]-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine
tert-Butyl 3-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]benzylcarbamate (230 mg) was suspended in tetrahydrofuran (2.3 mL), 2N hydrochloric acid (2.3 mL) was added, and the mixture was stirred with heating at 60° C. for 3 hrs. After cooling to room temperature, 1N aqueous sodium hydroxide solution (4.6 mL) was added, and the mixture was stirred at room temperature for 5 min. The solvent was removed by decantation, and the residue was dissolved in tetrahydrofuran (30 mL), dried over potassium carbonate, and concentrated under reduced pressure. The residue was triturated with diisopropyl ether, collected by filtration and dried under reduced pressure to give the title compound (164 mg).

reactant | tert-Butyl 3-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]benzylcarbamate | 230 mg | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC=1C2=C(N=CN1)C=C(N2)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2 | C31H32N6O3
reactant | hydrochloric acid | 2N, 2.3 mL | Cl | ClH
reactant | sodium hydroxide | 1N, 4.6 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2.3 mL | O1CCCC1 | C4H8O
product | 6-[3-(aminomethyl)phenyl]-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 164 mg | NCC=1C=C(C=CC1)C1=CC=2N=CN=C(C2N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C26H24N6O
